US05830920
A solution of 250 mg of 2,3,4,5,6-penta-O-acetyl-D-gluconic acid (benzyl 3,4-di-O-acetyl-2-benzyloxycarbonylamino-2,6-didesoxy-a-D-glucopyranosid-6-yl)-amide in 20 ml of dioxan and 2 ml water was hydrogenated at room temperature in the presence of palladium on charcoal (10%). After 2 hours, the catalyst was filtered off over a filter aid and the filtrate was concentrated. The residue was crystallized from ethyl acetate/ether and gave 2,3,4,5,6-penta-O-acetyl-D-gluconic acid (benzyl 3,4-di-O-acetyl-2-amino-2,6-didesoxy-a-D-glucopyranosid-6-yl)-amide, [a]+96.0° (c 0.2; dioxan), MS: m/z 741.1 ([M+H]+).

reactant | 2,3,4,5,6-penta-O-acetyl-D-gluconic acid (benzyl 3,4-di-O-acetyl-2-benzyloxycarbonylamino-2,6-didesoxy-a-D-glucopyranosid-6-yl)-amide | 250 mg | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CNC(=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O)NC(=O)OCC1=CC=CC=C1 | C41H50N2O19
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2,3,4,5,6-penta-O-acetyl-D-gluconic acid (benzyl 3,4-di-O-acetyl-2-amino-2,6-didesoxy-a-D-glucopyranosid-6-yl)-amide | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CNC(=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O)N | C33H44N2O17
